US04959482
Crotonyl chloride (4.7 g, 45 mmol) in 10 ml of methylene chloride was added slowly to a stirred solution of 10 g (45 mmol) of 3,5-di-tert-butyl-4-hydroxyaniline in 50 ml of methylene chloride at 0° C. Ten minutes later 3.6 g (45 mmol) of pyridine was added and, after three hours, the mixture was filtered. The filtered soid was washed with water and triturated in ether to yield 5.4 g of N-(3,5-di-tert-butyl-4-hydroxyphenyl)-2-butenamide having a melting point of 215°-218° C.

reactant | Crotonyl chloride | 45 mmol, 4.7 g | C(\C=C\C)(=O)Cl | C4H5ClO
reactant | 3,5-di-tert-butyl-4-hydroxyaniline | 45 mmol, 10 g | C(C)(C)(C)C=1C=C(N)C=C(C1O)C(C)(C)C | C14H23NO
reactant | pyridine | 45 mmol, 3.6 g | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N-(3,5-di-tert-butyl-4-hydroxyphenyl)-2-butenamide | 5.4 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)NC(C=CC)=O | C18H27NO2
